US03940259
Preparation of N-α-Chloroacetyl-N-(1,3-dioxepan-2-ylmethyl)-2,6-diethylaniline
N-(1,3-dioxepan-2-ylmethyl)-2,6-diethylaniline (26.3 grams), sodium bicarbonate (15 grams), dioxane (30 ml) and water (4 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The mixture is cooled to a temperature of about 0°C and chloroacetyl chloride (15 grams) is added, with stirring, over a period of about 15 minutes. After the addition is completed stirring is continued for a period of about 1 hour. After this time ether (100 ml) is added to the mixture and the resulting solution is washed with water. The washed solution is then dried over anhydrous magnesium sulfate and stripped of solvents leaving a solid residue. The residue is recrystallized to yield the desired product N-α-chloroacetyl-N-(1,3-dioxepan-2-ylmethyl)-2,6-diethylaniline.

reactant | N-(1,3-dioxepan-2-ylmethyl)-2,6-diethylaniline | 26.3 grams | O1C(OCCCC1)CNC1=C(C=CC=C1CC)CC | C16H25NO2
reactant | sodium bicarbonate | 15 grams | C([O-])(O)=O.[Na+]
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
reactant | chloroacetyl chloride | 15 grams | ClCC(=O)Cl | C2H2Cl2O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 4 ml | O | H2O
product | N-α-chloroacetyl-N-(1,3-dioxepan-2-ylmethyl)-2,6-diethylaniline | ClCC(=O)N(C1=C(C=CC=C1CC)CC)CC1OCCCCO1 | C18H26ClNO3
